US04885027
(N-Ethyl-3-Trifluoromethylbenzylsulfonamido)Acetonitrile
In this example 2 g of 3-trifluoromethylbenzylsulfonamidoacetamide was dissolved in 30 ml of dichloromethane. To this was added 0.32 g of sodium hydroxide dissolved in a minimum amount of water and 0.46 of benzyltriethylammonium chloride. A solution of 1.1 ml of diethylsulfate in 5 ml of dichloromethane was added dropwise. The reaction mixture was stirred overnight at room temperature. Water was added to the reaction mixture, and the dichloromethane layer was separated. The water phase is extracted with dichloromethane. The organic phases are combined, dried over magnesium sulfate, filtered and stripped. Trituration of the resulting solid residue yielded 1.4 g of title compound as a white solid; m.p. 67° to 68.5° C.

reactant | 3-trifluoromethylbenzylsulfonamidoacetamide | 2 g | FC(C=1C=C(CS(=O)(=O)NCC(=O)N)C=CC1)(F)F | C10H11F3N2O3S
reactant | sodium hydroxide | 0.32 g | [OH-].[Na+]
reactant | diethylsulfate | 1.1 ml | C(C)OS(=O)(=O)OCC | C4H10O4S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
catalyst | benzyltriethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (N-Ethyl-3-Trifluoromethylbenzylsulfonamido)Acetonitrile | 1.4 g | C(C)N(S(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F)CC#N | C12H13F3N2O2S
